US06410562B1
Step A: 2-(2-Phenylethen-1yl)-4,5-dihydro-1H-imidazole
A solution of 5.3 g (50 mmol) of benzaldehyde and 4.2 g (50 mmol) of 2-methyl-4,5-dihydro-1H imidazole in 50 ml toluene was refluxed in a Dean-Stark apparatus. Within 8 h 0.9 ml of water had been separated and the reaction was almost complete as detected by TLC. After cooling the crystalline precipitate was filtered off, treated with cold tert.-butylmethylether, and dried in vacuo.

reactant | benzaldehyde | 50 mmol, 5.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-methyl-4,5-dihydro-1H imidazole | 50 mmol, 4.2 g | CC=1NCCN1 | C4H8N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Phenylethen-1yl)-4,5-dihydro-1H-imidazole | C1(=CC=CC=C1)C=CC=1NCCN1 | C11H12N2
